US06251925B1
(R)-3′-[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethoxy]-[1,1′-biphenyl]-3-carboxylic acid methyl ester
A solution of methyl-3′-[(2-amino)ethoxy]-[1,1′-biphenyl]-3-carboxylate (284.5 mg) and (R)-(-)-3-chlorostyrene oxide (124 mg) in nitromethane (4.0 mL) was heated at 70-75° C. for 20 h. The mixture was concentrated with a rotary evaporator to afford the crude product. Purification by silica gel chromatography (eluting with ethyl acetate followed by 10:1 ethyl acetate: methanol followed by 3:1 ethyl acetate: methanol) afforded the title compound (190.6 mg) as a colorless oil.

reactant | methyl-3′-[(2-amino)ethoxy]-[1,1′-biphenyl]-3-carboxylate | 284.5 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)OCCN | C16H17NO3
reactant | (R)-(-)-3-chlorostyrene oxide | 124 mg | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
solvent | nitromethane | 4.0 mL | [N+](=O)([O-])C | CH3NO2
product | (R)-3′-[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethoxy]-[1,1′-biphenyl]-3-carboxylic acid methyl ester | 190.6 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)OCCNC[C@H](O)C1=CC(=CC=C1)Cl | C24H24ClNO4
